### PR TITLE
Partially merge master into rt

### PR DESCRIPTION
**Pull request by corlewis**
Significant changes merged in that are visible to rt proofs:
* refine: arch-split InvariantUpdates_H
* refine: arch-split StateRelation
* arm machine: SGI interface
* spec+proof: add SGISignalCap API + cdt interfaces
* refine: valid_badges + mdb_chunked arch interface

Tested with seL4 commit 296638287a.

### CODE REVIEW

File: proof/invariant-abstract/ARM/ArchArch_AI.thy [hunk 1]
```diff
@@ -1507,8 +1507,8 @@ declare word_less_sub_le [simp]
 
 crunch perform_page_table_invocation, perform_page_invocation,
        perform_asid_pool_invocation, perform_page_directory_invocation,
-       perform_sgi_invocation
-  for pred_tcb_at: "pred_tcb_at proj P t"
+       perform_sgi_invocation, perform_sgi_invocation
```
Comment (lsf37) [inline proof/invariant-abstract/ARM/ArchArch_AI.thy]: this one looks doubled-up

Comment (corlewis) [reply proof/invariant-abstract/ARM/ArchArch_AI.thy]: Whoops, it does indeed. Wonder how I ended up with that, it's not like it could have been duplicated in the merge since it's new to MCS.

File: proof/refine/StateRelation.thy [hunk 2]
```diff
@@ -647,7 +654,7 @@ lemma pspace_relation_absD:
   apply (fastforce simp: image_def intro: rev_bexI)
   done
 
-lemma pspace_relation_None:
+lemma (in Arch) pspace_relation_None:
```
Comment (Xaphiosis) [inline proof/refine/StateRelation.thy:657]: no FIXME?

File: proof/refine/RISCV64/TcbAcc_R.thy [hunk 3]
```diff
@@ -2757,6 +2757,17 @@ defs valid_objs'_asrt_def:
 
 declare valid_objs'_asrt_def[simp]
 
+lemma threadSet_ghost_relation_wrapper[wp]:
+  "threadSet f p \<lbrace>ghost_relation_wrapper t\<rbrace>"
+  unfolding threadSet_def setObject_def updateObject_default_def
+  apply (wpsimp wp: getObject_tcb_wp simp: updateObject_default_def)
+  apply (clarsimp simp: obj_at'_def)
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/TcbAcc_R.thy]: nitpick: can drop to 2 lines

File: proof/refine/RISCV64/Reply_R.thy [hunk 4]
```diff
@@ -1277,6 +1277,8 @@ lemma sc_with_reply_replyNext_Some:
    apply blast
   by (meson heap_ls_next_in_list)
 
+context begin interpretation Arch . (* FIXME arch-split RT *)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Reply_R.thy:1280]: I'm still not keen on seeing these resurrected. There wasn't a nicer way of going into Arch with a FIXME and then requalifying?

File: proof/refine/StateRelation.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/StateRelation.thy:657]: I put the FIXME on the requalify just after this lemma.

File: proof/refine/RISCV64/Reply_R.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/RISCV64/Reply_R.thy:1280]: This isn't actually a resurrection, `Reply_R` is a new file that MCS has added so it hasn't been arch-split at all.

I've been doing that nicer way when it's just a lemma or two but this is a relatively large section, so I didn't want to have to go through and requalify everything in it.

**Review by lsf37 — APPROVED** [review]
Yup, this looks good, I have nothing further to add to Raf's comments.
